US08426437B2
This compound is prepared according to synthesis 25, from 115 mg (0.35 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 53 μL (0.42 mmol) of 3-dimethylaminopropylamine. After purification by chromatography on silica (eluent chloroform/methanol/ammonia 160/25/4), 15 mg (10%) of 8-(3-dimethylamino-propylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.35 mmol, 115 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 3-dimethylaminopropylamine | 0.42 mmol, 53 μL | CN(CCCN)C | C5H14N2
product | 8-(3-dimethylamino-propylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 15 mg, 10% | CN(CCCNS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C.C(C)C(=O)[O-] | InChI=1S/C16H20N4O3S.C3H6O2/c1-20(2)9-3-7-18-24(22,23)11-4-5-14-13(10-11)12-6-8-17-15(12)16(21)19-14;1-2-3(4)5/h4-6,8,10,17-18H,3,7,9H2,1-2H3,(H,19,21);2H2,1H3,(H,4,5)/p-1
